US09278982B2
A mixture of 2-chloro-4,6-dimethylnicotinonitrile (800 mg, 4.83 mmol) and thiourea (1.2 kg, 15.76 mmol) was heated at reflux (118° C.) in n-butanol for 4 h. After cooling to room temperature, the yellow solution turned to a suspension containing light yellow solids. The solids were collected by filtration, rinsed with n-butanol, and dried in vacuo to give 2-mercapto-4,6-dimethylnicotinonitrile (778 mg, 98% yield). C8H8N2S; light yellow powder; mp 219-221° C.; 1H NMR (400 MHz, CDCl3) δ 6.40 (1H, s), 2.45 (3H, s), 2.43 (3H, s); ESI-HRMS (negative mode) calcd for C8H7N2S: 163.0330. found: m/z 163.0332 [M−H]−.

reactant | 2-chloro-4,6-dimethylnicotinonitrile | 4.83 mmol, 800 mg | ClC1=C(C#N)C(=CC(=N1)C)C | C8H7ClN2
reactant | thiourea | 15.76 mmol, 1.2 kg | NC(=S)N | CH4N2S
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-mercapto-4,6-dimethylnicotinonitrile | 778 mg, 98% yield | SC1=C(C#N)C(=CC(=N1)C)C | C8H8N2S
